US05804532
A mixture of 3-cyclopropyl-2-(N,N-dimethylaminomethylene)-1-[2-(1-methylpropylsulphenyl)-4-trifluoromethylphenyl]propan-1,3-dione (11.9 g) and hydroxylamine hydrochloride (2.3 g) in ethanol was stirred at room temperature overnight. The mixture was cooled (ice bath) and a solid filtered off, washed with a small amount of cold ethanol, then water, and dried to give 5-cyclopropyl-4-[2-(1-methylpropylsulphenyl)-4-trifluoromethylbenzoyl]isoxazole (3.8 g) as a white solid, m.p. 75.6°-76.4° C.

reactant | 3-cyclopropyl-2-(N,N-dimethylaminomethylene)-1-[2-(1-methylpropylsulphenyl)-4-trifluoromethylphenyl]propan-1,3-dione | 11.9 g | C1(CC1)C(C(C(=O)C1=C(C=C(C=C1)C(F)(F)F)SC(CC)C)=CN(C)C)=O | C20H24F3NO2S
reactant | hydroxylamine hydrochloride | 2.3 g | Cl.NO
solvent | ethanol | C(C)O | C2H6O
product | 5-cyclopropyl-4-[2-(1-methylpropylsulphenyl)-4-trifluoromethylbenzoyl]isoxazole | 3.8 g | C1(CC1)C1=C(C=NO1)C(C1=C(C=C(C=C1)C(F)(F)F)SC(CC)C)=O | C18H18F3NO2S
